US05527804
Carbonic Acid (4-nitrophenyl)ester (4-phenoxy-phenyl)ester
A solution of 4-phenoxyphenol (50 g, 0.27 mol) and pyridine (22 mL, 0.27 mol) in 500 mL of methylene chloride was added under nitrogen dropwise over 1.5 hours to a solution of 4-nitrophenyl chloroformate (54 g, 0.27 mol) at room temperature. After the addition the reaction was stirred overnight at room temperature. The reaction was extracted two times with 1N HCl, multiple times with saturated Na2CO3, dried (MgSO4) and the solvent removed under reduced pressure to give 94.86 g of a light yellow crystalline solid. Recrystallization from methylene chloride-diisopropyl ether gave 69.13 g (73%) of the title compound as a light tan crystalline solid, mp 113°-115° C.

reactant | 4-phenoxyphenol | 0.27 mol, 50 g | O(C1=CC=CC=C1)C1=CC=C(C=C1)O | C12H10O2
reactant | pyridine | 0.27 mol, 22 mL | N1=CC=CC=C1 | C5H5N
reactant | 4-nitrophenyl chloroformate | 0.27 mol, 54 g | ClC(=O)OC1=CC=C(C=C1)[N+](=O)[O-] | C7H4ClNO4
solvent | methylene chloride | 500 mL | C(Cl)Cl | CH2Cl2
product | Carbonic Acid (4-nitrophenyl)ester (4-phenoxy-phenyl)ester | 94.86 g | O(C1=CC=CC=C1)C1=CC=C(C=C1)OC(OC1=CC=C(C=C1)[N+](=O)[O-])=O | C19H13NO6
